US04455422
5.0 Grams of 6-(1-oxo-2-morpholinoethyl)-3,4-dihydrocarbostyril monohydrochloride and 5.0 g of m-chloroaniline were mixed in 30 ml of concentrated hydrochloric acid and the mixture was heated at 200°-220° C. by removing water for 6 hours. After cooled the reaction mixture 100 ml of 5N-hydrochloric acid was added thereto and dissolved by heating and refluxed for 2 hours. Then the reaction mixture was cooled and poured into 100 ml of 8N-sodium hydroxide aqueous solution and the organic layer was extracted with chloroform. Chloroform was removed by distillation and the residue thus obtained was separated and purified by a preparative silica-gel thin layer chromatography, then recrystallized from dioxane-water to obtain 0.16 g of 6-{1-oxo-2-[4-(3-chlorophenyl)-1-piperazinyl]-ethyl}-3,4-dihydrocarbostyril in light yellow needle-like crystals.

reactant | 6-(1-oxo-2-morpholinoethyl)-3,4-dihydrocarbostyril monohydrochloride | Cl.O=C(CN1CCOCC1)C=1C=C2CCC(NC2=CC1)=O
reactant | m-chloroaniline | 5.0 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 6-{1-oxo-2-[4-(3-chlorophenyl)-1-piperazinyl]-ethyl}-3,4-dihydrocarbostyril | 0.16 g | O=C(CN1CCN(CC1)C1=CC(=CC=C1)Cl)C=1C=C2CCC(NC2=CC1)=O | C21H22ClN3O2
